US04317823
8.6 g of 1,3-dimethyl-4-[(2-nitrophenyl)amino]pyrazole-5-carboxamide in 400 ml of ethanol are hydrogenated over 0.8 g of 10% strength palladium-on-charcoal for 1 hour at 50° C. analogously to Experiment 1. The mixture is filtered; the filtrate is concentrated to dryness, and the residue from evaporation is recrystallized from 160 ml of ethyl acetate and 120 ml of cyclohexane to yield 7.1 g of 4-[(2-aminophenyl)amino]-1,3-dimethylpyrazole-5-carboxamide, mp 182° to 184° C. (dec.).

reactant | 1,3-dimethyl-4-[(2-nitrophenyl)amino]pyrazole-5-carboxamide | 8.6 g | CN1N=C(C(=C1C(=O)N)NC1=C(C=CC=C1)[N+](=O)[O-])C | C12H13N5O3
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 4-[(2-aminophenyl)amino]-1,3-dimethylpyrazole-5-carboxamide | 7.1 g | NC1=C(C=CC=C1)NC=1C(=NN(C1C(=O)N)C)C | C12H15N5O
